US05561101
5-chloro-5-(4,6-dimethoxy-2-pyrimidinyl)furo[3,4-b]pyridine-7(5H)-one (Table B, cpd. no. 68)
45.53 g of 3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]-2-pyridinecarboxylic acid are suspended in 700 ml of carbon tetrachloride and 186.4 g of thionyl chloride added with stirring. The suspension is heated to 70° C. for 4 hrs and the reaction mixture then cooled to RT and the excess thionyl chloride and carbon tetrachloride evaporated off to give the title compound as a tan solid m.p. 146°-148° C.

reactant | 3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]-2-pyridinecarboxylic acid | 45.53 g | COC1=NC(=NC(=C1)OC)C(=O)C=1C(=NC=CC1)C(=O)O | C13H11N3O5
reactant | thionyl chloride | 186.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 700 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloro-5-(4,6-dimethoxy-2-pyrimidinyl)furo[3,4-b]pyridine-7(5H)-one | ClC1(OC(C2=NC=CC=C21)=O)C2=NC(=CC(=N2)OC)OC | C13H10ClN3O4
